US05218109
The procedure of Example 1 was repeated except that 110 mg of 1α,3β-bis(t-butyldimethylsilyloxy)pregna-5,7-diene-20-carbaldehyde was used in lieu of 100 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde to give 92 mg of 1α,3β-bis(t-butyldimethylsilyloxy)-20-methylpregna-5,7-dien-21-ol.

reactant | 1α,3β-bis(t-butyldimethylsilyloxy)pregna-5,7-diene-20-carbaldehyde | 110 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C34H60O3Si2
reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 100 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
product | 1α,3β-bis(t-butyldimethylsilyloxy)-20-methylpregna-5,7-dien-21-ol | 92 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C34H62O3Si2
